Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 04:45AM   ALT(SGPT)-74* AST(SGOT)-127* LD(LDH)-264* ALK 
PHOS-63 TOT BILI-0.9
___ 04:45AM   WBC-4.6 HGB-12.6 HCT-37.4 MCV-102* PLT 
COUNT-60*
 
Brief Hospital Course:
Ms. ___ is a ___ female ___ sarcoidosis (pulmonary and 
ocular), HTN, anxiety admitted with complaints of (?)abrupt 
onset BLE weakness and BUE/BLE numbness following plane trip; ED 
course notable for suspected acute alcohol withdrawal syndrome 
(with possible seizure) treated with phenobarbital.  Evaluation 
thus far notable for relatively unremarkable MRI head/spine 
neuroimaging, resolving
lactic acidosis of uncertain etiology (suspect seizure-related), 
and lab findings suspicious for acute/chronic alcohol-related 
liver injury (transaminitis, thrombocytopenia, microcytosis).

ACUTE/ACTIVE PROBLEMS:

# Alcohol use disorder
# Acute alcohol withdrawal syndrome, with possible delirium 
tremens and (?)unwitnessed seizure while in MRI scan, now 
appears resolved s/p phenobarbital load in ED
- Psychiatry/Addictions Psychiatry evaluations completed; at
this time patient does not express willingness to pursue alcohol
abstinence program, no clear evidence of comorbid psychiatric
decompensation
- Counseled patient and family regarding suspected alcohol use 
disorder, incident severe alcohol withdrawal syndrome, and 
suspected alcohol-related liver injury.  Strongly recommended 
alcohol abstinence with support from family/community resources 
with which PCP may help provide referral and access.  Patient's 
family - her sister, two daughters, and brother-in-law - appear 
to have strong understanding of the severity of illness and risk 
for future decompensation without supported alcohol abstinence 
plan; although patient does not openly deny that she has a 
drinking problem, at this time she feels very confident that "I 
can do this on my own."   We discussed at length how difficult 
alcohol abstinence would likely be given her longstanding 
history of heavy intake, and encouraged her to allow her family 
to help her as much as possible in meeting this challenge to her 
health and well-being.
- Will arrange outpatient follow-up with PCP Dr ___ 
and ___ Hepatology.
- High-dose thiamine repletion while hospitalized, provided 
prescription to continue 100 daily as outpatient

# Suspected alcoholic liver injury, possible cirrhosis in 
setting of transaminitis, thrombocytopenia, macrocytosis, prior 
imaging suggestive of fatty liver disease
- Outpatient Hepatology follow-up
- Encourage alcohol abstinence as above
- Serologies demonstrate that she is a candidate for hepatitis A 
vaccination; will communicate this to PCP as transitional issue

# Abrupt onset bilateral lower extremity weakness, resolving, 
per Neurology consult possible entrapment neuropathy exacerbated 
by prolonged sitting
# Bilateral hand/foot numbness, likely peripheral sensory 
neuropathy related to alcohol use
- Outpatient ___

# Lactic acidosis, resolved - suspect related to alcohol 
withdrawal seizure while patient was in ED

CHRONIC/STABLE PROBLEMS:
# Sarcoidosis (pulmonary, ocular) not on systemic
immnunosuppression
- No evidence of acute flare at this time
- Continue eye drops

# HTN
- Spironolactone 25 daily per home regimen

# Hypothyroidism
- Continue home dose 50mcg daily

# Prior history of domestic violence
- SW Consult

# Asthma
- Albuterol prn

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Ad lib
# Functional status: Ambulate with RW as tolerated.
# Bowel Function: Senna/Colace.
# Lines/Tubes/Drains: PIV
# Precautions: Fall
# VTE prophylaxis: Low-risk, ambulate as tolerated.
# Consulting Services: Psychiatry, Addictions Psychiatry
# Contacts/HCP/Surrogate and Communication:  
# Code Status/Advance Care Planning: (please also see current 
POE
order) Presume full.
# Disposition: 
- Anticipate discharge to: Home with services 
- Anticipated discharge date: ___
- Discharge barriers: Explore further alcohol counseling options
with patient/family

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Restasis 0.05 % ophthalmic (eye) BID 
2. Spironolactone 25 mg PO DAILY 
3. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
4. Ascorbic Acid ___ mg PO DAILY 
5. Loratadine 10 mg PO DAILY:PRN allergy symptoms 
6. Lactobac comb ___ 300-250 million cell-mg oral 
DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. vitamin E (dl, acetate) 400 unit oral DAILY 
9. Cyanocobalamin Dose is Unknown  PO DAILY 
10. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*2 
2.  Cyanocobalamin 50 mcg PO DAILY  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Lactobac comb ___ 300-250 million cell-mg oral 
DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Loratadine 10 mg PO DAILY:PRN allergy symptoms  
8.  Restasis 0.05 % ophthalmic (eye) BID  
9.  Spironolactone 25 mg PO DAILY  
10.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
11.  vitamin E (dl, acetate) 400 unit oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Alcohol withdrawal syndrome
Alcohol related liver injury
Transient leg weakness, improved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were diagnosed with acute alcohol withdrawal syndrome 
accompanied by possible seizure.  
Your tests suggest that you may have alcohol-related liver 
injury. 
- Please abstain from any further alcohol use and seek follow-up 
care with your primary care physician to access alcohol 
abstinence support resources.  
- Please follow-up with Dr ___, as well ___ Hepatology, as 
instructed below
- We recommend you use a rolling walker until your strength 
recovers to baseline.
 
Followup Instructions:
___